US04940710
A mixture of 4.092 g of 1-(phenylsulfonyl)-3-(2-piperazinyl)-1H-indole and 1.012 g of 1-ethyl-6,7-difluoro1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 5 ml of pyridine was heated at 95° C. for 3 hours, then cooled and the solid collected, washed with methanol and ether, giving 1.94 g of 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-[1-(phenylsulfonyl)-1H-indol-3-yl]-1-piperazinyl]-3-quinolinecarboxylic acid.

reactant | 1-(phenylsulfonyl)-3-(2-piperazinyl)-1H-indole | 4.092 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1NCCNC1 | C18H19N3O2S
reactant | 1-ethyl-6,7-difluoro1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.012 g | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-[1-(phenylsulfonyl)-1H-indol-3-yl]-1-piperazinyl]-3-quinolinecarboxylic acid | 1.94 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1)F)=O)C(=O)O | C30H27FN4O5S
